US07855194B2
2-(Piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester dihydrochloride
A solution of 2-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester (0.48 g, 1.43 mmol) in ethanol (10 mL) and 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 237.4 [M+H]+.

reactant | 2-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester | 1.43 mmol, 0.48 g | COC(=O)C1=NC(=NC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N4O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(Piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester dihydrochloride | Cl.Cl.COC(=O)C1=NC(=NC=C1)NC1CCNCC1 | InChI=1S/C11H16N4O2.2ClH/c1-17-10(16)9-4-7-13-11(15-9)14-8-2-5-12-6-3-8;;/h4,7-8,12H,2-3,5-6H2,1H3,(H,13,14,15);2*1H
